US04975454
Stage B: 3-(1-Hydroxyethyl)-2H-Chromene
The procedure is as in Example 1, stage B, 6,8-dimethyl-3-acetyl-2H-chromene being replaced by 3-acetyl-2H-chromene, obtained in the preceding stage.

reactant | 6,8-dimethyl-3-acetyl-2H-chromene | CC=1C=C2C=C(COC2=C(C1)C)C(C)=O | C13H14O2
reactant | 3-acetyl-2H-chromene | C(C)(=O)C=1COC2=CC=CC=C2C1 | C11H10O2
product | 3-(1-Hydroxyethyl)-2H-Chromene | OC(C)C=1COC2=CC=CC=C2C1 | C11H12O2
